US05004558
An apparatus was provided including a two liter, 4-neck, round bottom flask equipped with an alcohol thermometer, an overhead mechanical stirrer, a water-cooled condenser and a nitrogen purge. Into this reactor gradually were added 23 g of sodium into 1,200 ml of absolute ethanol previously added. After all of the sodium had reacted the solution was stirred overnight under a slow nitrogen flow. 1-octanethiol, 146.28 g, was added to the mixture and an addition funnel and heating mantel were added to the reactor. In 200 ml of ethanol, 129.13 g of butyrolactone was added dropwise to the ethanol solution at reflux temperature. The resulting mixture was heated at reflux overnight. The ethanol was then removed from the reaction mixture and the residue was dissolved in water. The aqueous solution was washed with methylene chloride. The aqueous solution was then added to an ice/sulfuric acid mixture and the product extracted with methylene chloride. The methylene chloride solution was washed with water, dried with sodium sulfate, filtered and concentrated under vacuum with heating. The liquid product solidified upon cooling to room temperature. There was provided 219 g of 4-(n-octylthio)butyric acid. The solid exhibited a melting point of 33°-34.5° C.

reactant | water | O | H2O
reactant | 1-octanethiol | C(CCCCCCC)S | C8H18S
reactant | butyrolactone | 129.13 g | C1(CCCO1)=O | C4H6O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-(n-octylthio)butyric acid | 219 g | C(CCCCCCC)SCCCC(=O)O | C12H24O2S
